US07935841B2
The reaction was carried out in an Argonaut Endeavor hydrogenation vessel. The glass liner was charged with dimethyl itaconate (316 mg, 2.0 mmol) and 3,4-bis[(S,S)-2,5-diphenyl-phospholan-1-yl]-furan-2,5-dione-(1,5-cyclooctadiene) rhodium(I) tetrafluoroborate (1.7 mg, 0.002 mmol, S/C 1000). The vessel was charged to 10 bar nitrogen and vented (×5). Degassed methanol (4 ml) was added. The vessel was charged to 10 bar nitrogen and vented (×2). Stirring was commenced at 1000 rpm and the contents were heated to 25° C. The vessel was charged to 10 bar hydrogen. Hydrogen uptake was complete after 16 h. The mixture was vented and evaporated to give (S)-2-methylsuccinic acid dimethyl ester, conversion 100%, ee 96.6% (Chiraldex GTA, 30 m×0.25 mm, injector/detector 180° C., helium 14 psi, 90° C. for 6 min then ramp at 1° C./min to 105° C., retention times S 10.11 minutes, R 10.48 minutes). In comparison, much lower enantioselectivity, of 60.2% ee, is reported by Holz, J. et al, ibid., for the same transformation, at S/C 100 in methanol, catalysed by the corresponding rhodium complex of Me-Malphos [i.e. the analogue of ligand (7) with Me groups at the 2- and 5-position of each phospholane ring]. Holz, J. et al also report that a change of solvent, to THF, increases the enantioselectivity to 86% ee but this still falls short of the 96.6% ee achieved in the current example at a higher S/C ratio.

reactant | dimethyl itaconate | 2.0 mmol, 316 mg | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | C 1000 | C([C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
reactant | hydrogen | [H][H] | H2
catalyst | 3,4-bis[(S,S)-2,5-diphenyl-phospholan-1-yl]-furan-2,5-dione (1,5-cyclooctadiene) rhodium(I) tetrafluoroborate | 0.002 mmol, 1.7 mg | C1(=CC=CC=C1)[C@H]1P([C@@H](CC1)C1=CC=CC=C1)C=1C(OC(C1P1[C@@H](CC[C@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O)=O.F[B-](F)(F)F.[Rh+].C1=CCCC=CCC1
solvent | methanol | 4 ml | CO | CH4O
product | (S)-2-methylsuccinic acid dimethyl ester | COC([C@H](CC(=O)OC)C)=O | C7H12O4
